US08975254B2
(S)-5-acetyl-N-(2-(3-(3-chloro-4-cyano-5-fluorophenyl)-1H-pyrazol-1-yl)-propyl)isoxazole-3-carboxamide was prepared using the method of Example 34(d) starting from (S)-4-(1-(1-aminopropan-2-yl)-1H-pyrazol-3-yl)-2-chloro-6-fluorobenzonitrile (500 mg, 1.794 mmol) and 5-acetylisoxazole-3-carboxylic acid (417 mg, 2.69 mmol). The product was purified twice by Flash-chromatography (normal phase and reverse phase). Yield 19.6%. 1H-NMR (400 MHz; DMSO): δ 1.51 (d, 3H), 2.57 (s, 3H), 3.56-3.77 (m, 2H), 4.65-4.77 (m, 1H), 7.01 (d, 1H), 7.56 (s, 1H), 7.89 (dd, 1H), 7.91 (d, 1H), 7.98 (s, 1H), 9.03 (t, 1H).

reactant | (S)-4-(1-(1-aminopropan-2-yl)-1H-pyrazol-3-yl)-2-chloro-6-fluorobenzonitrile | 1.794 mmol, 500 mg | NC[C@H](C)N1N=C(C=C1)C1=CC(=C(C#N)C(=C1)F)Cl | C13H12ClFN4
reactant | 5-acetylisoxazole-3-carboxylic acid | 2.69 mmol, 417 mg | C(C)(=O)C1=CC(=NO1)C(=O)O | C6H5NO4
product | (S)-5-acetyl-N-(2-(3-(3-chloro-4-cyano-5-fluorophenyl)-1H-pyrazol-1-yl)-propyl)isoxazole-3-carboxamide | Yield 19.6% | C(C)(=O)C1=CC(=NO1)C(=O)NC[C@H](C)N1N=C(C=C1)C1=CC(=C(C(=C1)F)C#N)Cl | C19H15ClFN5O3
